US08541457B2
Synthesis of 2-(4-Methanesulfonylbenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 4-methanesulfonylbenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 9% yield; m.p. 262-265° C.; 1H NMR (DMSO-d6, 300 MHz) δ 8.65 (s, 1H), 8.27 (d, J=8.3 Hz, 2H), 8.06 (d, J=8.3 Hz, 2H), 7.31-7.21 (m, 5H), 4.38 (d, J=3.7 Hz, 2H), 3.27 (s, 3H), 2.51 (s, 3H); MS (ES+) m/z 430.1 (M+1).

reactant | 4-methanesulfonylbenzoyl chloride | CS(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H7ClO3S
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(4-Methanesulfonylbenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 9% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)C | C20H19N3O4S2
